US04703046
A solution of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (3.3 g.), trimethylsilylacetamide (6.4 g.) and bis(trimethylsilyl)acetamide (6.0 g.) in dry ethyl acetate (100 ml.) and a solution of dimethylformamide (0.9 ml.), phosphoryl chloride (1.1 ml.) and 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 5.1 g.) in dry ethyl acetate (5 ml.) were treated in a similar manner to that of Example 1-(1) (isopropyl alcohol was used for pulverization instead of diethyl ether) to give 4-nitrobenzyl 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 2.65 g.).

reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 3.3 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | trimethylsilylacetamide | 6.4 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 6.0 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | phosphoryl chloride | 1.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid | 5.1 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)Br | C7H6BrN3O4S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | dimethylformamide | 0.9 ml | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 2.65 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC)Br | C21H17BrN6O8S2
